Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],1.62771838965
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[O:1]=[C:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:11][H:12],3.6183701589
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2]([O:3][C:4][H:5])[C:7]([H:8])([H:9])[H:10],4.4067407535
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2],2.86073876531
[C:1][C:2]([H:3])([H:4])[C:5]=[C:9]([H:8])[H:10].[C:6]([H:7])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-5.07221865473
[C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.95604468033
[C:7]#[C:8][O:9][H:10].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-5.150964032219999
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:8].[O:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8],-8.25758063925
[H:1][C:2]#[C:3][O:4].[O:5][H:6]>>[H:1][C:2]#[C:3][O:4][O:5][H:6],-1.42643135199
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:4][C:5]([H:6])([H:7])[C:8][O:9][H:10].[H:1][C:2]=[O:3],0.567169441588
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],4.07569876246
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]=[O:7]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]=[O:7],0.288287216229
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],2.59724899635
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3](=[C:4][H:5])[C:11]([H:12])([H:13])[H:14],4.27157698251
[O:1]=[C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],0.1104284779299999
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],4.66746425979
[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1]=[O:2].[C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-0.889384415051
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-5.02210304135
[C:12]([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.27300189899
[O:1][C:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1][C:2]([O:3])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],4.74655283148
[C:1]([C:2]([O:3][C:4]#[C:5])[C:9]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]=[C:2]1[O:3][C:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.5065513258300001
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:1][C:2],8.35042196007
[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-5.14465160042
[H:5].[O:1][C:2]#[C:3][C:4][C:6]([H:7])([H:8])[O:9][H:10]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.01905120802
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.38058580304
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[O:11]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C@@:8]1([H:9])[C:10][O:11]1,2.63889432483
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[O:5][H:6],3.83556242863
[H:1][C:2](=[C:3]([H:4])[H:5])[C:15]([C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])([H:16])[H:17]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]1([H:16])[H:17],0.0753191062695
[C:11]([H:12])[H:13].[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.20266776836
